US07429579B2
d) 2-Methyl-quinoline-6-carboxylic acid N′-(4-[1,3]dioxan-2-yl-1-methylimino-butyl)-hydrazide
4-[1,3]Dioxan-2-yl-N-methyl-butyramide (1 g, 5.35 mmol) was cooled to −78° C. in dry dichloromethane (10 ml) under argon and phosphorus oxychloride (0.65 ml, 7 mmol) was added dropwise. The mixture was warmed to room temperature to give an amber solution which was re-cooled to 0° C. This solution was added dropwise to a suspension of 2-methyl-quinoline-6-carboxylic acid hydrazide (1 g, 5 mmol) in chloroform (20 ml) and the mixture stirred at room temperature overnight. The mixture was poured into water (300 ml), basified with sodium hydroxide solution (5M) and extracted with dichloromethane (3×200 ml). The combined organic portions were dried (Na2SO4), filtered and evaporated to give the desired compound as a brown oil (1.28 g, 83%).

reactant | 4-[1,3]Dioxan-2-yl-N-methyl-butyramide | 5.35 mmol, 1 g | O1C(OCCC1)CCCC(=O)NC | C9H17NO3
reactant | phosphorus oxychloride | 7 mmol, 0.65 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methyl-quinoline-6-carboxylic acid hydrazide | 5 mmol, 1 g | CC1=NC2=CC=C(C=C2C=C1)C(=O)NN | C11H11N3O
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 300 ml | O | H2O
product | 2-Methyl-quinoline-6-carboxylic acid N′-(4-[1,3]dioxan-2-yl-1-methylimino-butyl)-hydrazide | 1.28 g, 83% | O1C(OCCC1)CCCC(=NC)NNC(=O)C=1C=C2C=CC(=NC2=CC1)C | C20H26N4O3
